US09359375B2
4-((1R,2S)-2-aminocyclohexylamino)-5-fluoro-2-(3-methylisothiazol-5-ylamino)benzamide
A mixture of tert-butyl (1S,2R)-2-(5-bromo-4-cyano-2-fluorophenylamino)cyclohexylcarbamate (220 mg, 0.534 mmol), 5-amino-3-methylisothiazole hydrochloride (97 mg, 0.644 mmol), BINAP (50 mg, 0.080 mmol), Pd(OAc)2 (35 mg, 0.156 mmol) and K2CO3 (250 mg, 1.81 mmol) in dioxane (4 mL) was degassed with Ar, then was stirred at 120 C for 18 h. After the mixture was filtered, the filtrate was concentrated in vacuo. To a solution of the residue in EtOH (2 mL) and DMSO (0.5 mL), 1N aq. NaOH (0.5 mL) and H2O2 (50% aq., 0.5 mL) were added. After being stirred at room temperature for 3 h, water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo. The residue was dissolved in TFA (5 mL). After 30 min of standing, TFA was removed in vacuo. The residue was purified by HPLC to give the titled compound (144 mg). MS 364.4 (M+H); UV 204.7, 292.8 nm

reactant | tert-butyl (1S,2R)-2-(5-bromo-4-cyano-2-fluorophenylamino)cyclohexylcarbamate | 0.534 mmol, 220 mg | BrC=1C(=CC(=C(C1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)F)C#N | C18H23BrFN3O2
reactant | 5-amino-3-methylisothiazole hydrochloride | 0.644 mmol, 97 mg | Cl.NC1=CC(=NS1)C
reactant | BINAP | 0.080 mmol, 50 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | K2CO3 | 1.81 mmol, 250 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.156 mmol, 35 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-((1R,2S)-2-aminocyclohexylamino)-5-fluoro-2-(3-methylisothiazol-5-ylamino)benzamide | 144 mg | N[C@@H]1[C@@H](CCCC1)NC1=CC(=C(C(=O)N)C=C1F)NC1=CC(=NS1)C | C17H22FN5OS
